US06465507B2
N-[2-Oxo-3-(4-oxo-2,4,6,7-tetrahydro-pyrano[3,4-c]pyrrol-1-ylmethylene)-2,3-dihydro-1H-indol-6-yl]-acetamide
N-(2-Oxo-2,3-dihydro-1H-indol-6-yl)-acetamide was condensed with 4-oxo-2,4,6,7-tetrahydro-pyrano[3,4-c]pyrrole-1-carbaldehyde to give the title compound.

reactant | N-(2-Oxo-2,3-dihydro-1H-indol-6-yl)-acetamide | O=C1NC2=CC(=CC=C2C1)NC(C)=O | C10H10N2O2
reactant | 4-oxo-2,4,6,7-tetrahydro-pyrano[3,4-c]pyrrole-1-carbaldehyde | O=C1OCCC=2C1=CNC2C=O | C8H7NO3
product | N-[2-Oxo-3-(4-oxo-2,4,6,7-tetrahydro-pyrano[3,4-c]pyrrol-1-ylmethylene)-2,3-dihydro-1H-indol-6-yl]-acetamide | O=C1NC2=CC(=CC=C2C1=CC1=C2C(=CN1)C(OCC2)=O)NC(C)=O | C18H15N3O4
